US04342781
N-Decyl-3-phenyl-3-(3-nitrophenyl)propenamide
To a stirred solution of 8.0 g. of 3-phenyl-3-(3-nitrophenyl)propenoic acid in 260 ml. of methylene chloride was added 3.3 g. of triethylamine. The mixture was stirred for 20 minutes and then it was cooled in an ice-bath. To the cooled solution was added, dropwise, during 15 minutes, a solution of 3.6 g. of ethyl chloroformate in 30 ml. of methylene chloride. Stirring was continued for 20 minutes, and then a solution of 5.2 g. of decylamine in 30 ml. of methylene chloride was added, dropwise, during 10 minutes. The reaction mixture was allowed to warm to room temperature, and then it was washed successively with 1 N potassium hydroxide, 1 N hydrochloric acid, water, and saturated sodium chloride solution. The resulting solution was dried (Na2SO4) and evaporated in vacuo to give the 10.7 g. of the title compound as a oil.

reactant | 3-phenyl-3-(3-nitrophenyl)propenoic acid | C1(=CC=CC=C1)C(=CC(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C15H11NO4
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | decylamine | C(CCCCCCCCC)N | C10H23N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-Decyl-3-phenyl-3-(3-nitrophenyl)propenamide | C(CCCCCCCCC)NC(C=C(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)=O | C25H32N2O3
